US08304438B2
(b) 3-[2-(4-Fluoro-phenyl)-pyrimidin-5-yl]-acrylic Acid
945 mg (4.67 mmol) of 2-(4-fluoro-phenyl)-pyrimidine-5-carbaldehyde, 1544 mg (14.84 mmol) of malonic acid and 4197 mg (49.29 mmol) of piperidine in 50 ml of pyridine were stirred at 125° C. for 17 h. After concentration, water and hydrochloric acid were added, and the solid product was filtered off with suction and dried. Yield: 1.01 g.

reactant | 2-(4-fluoro-phenyl)-pyrimidine-5-carbaldehyde | 4.67 mmol, 945 mg | FC1=CC=C(C=C1)C1=NC=C(C=N1)C=O | C11H7FN2O
reactant | malonic acid | 14.84 mmol, 1544 mg | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 49.29 mmol, 4197 mg | N1CCCCC1 | C5H11N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-[2-(4-Fluoro-phenyl)-pyrimidin-5-yl]-acrylic Acid | FC1=CC=C(C=C1)C1=NC=C(C=N1)C=CC(=O)O | C13H9FN2O2
